data/pmechdb/original/mc_train_fold0/raw/train.txt
[B-]([OH+:11][CH2:10]C[Si](C)(C)C)(F)(F)F>>[B-]([OH:11])(F)(F)F.C[Si](C)(C)C[CH2+:10] 10,11=11
[H:20][O+:21]1CCOC1(C)C.C[OH:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>CC1(OCC[O:21]1)C.[H:20][OH+:10]C.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;20,21=21
[CH2-:10][S:20](=O)(=O)[Cl:21].CCC1C(C2C(CCN2C(=O)OC)C3C1OC(=O)C3C)CCCCO.CC[NH+](CC)CC.CC[NH+](C(C)C)C(C)C.CC1CC2C(C1OCC3=CC=CC=C3)CC4(C2(C5C=CC(C5CC4O)(C)C)O)C.CN1C(C(CC1=O)(CCC(=C)C[Si](C)(C)C)C2=CC(=C(C=C2)OC)OC)O>>[CH2:10]=[S:20](=O)=O.[Cl-:21].CCC1C(C2C(CCN2C(=O)OC)C3C1OC(=O)C3C)CCCCO.CC[NH+](CC)CC.CC[NH+](C(C)C)C(C)C.CC1CC2C(C1OCC3=CC=CC=C3)CC4(C2(C5C=CC(C5CC4O)(C)C)O)C.CN1C(C(CC1=O)(CCC(=C)C[Si](C)(C)C)C2=CC(=C(C=C2)OC)OC)O 10=20;20,21=21
[H:20][OH2+:21].C[C:11](=[CH:10]CC1(CC(C=CC1=O)(C)C)C)[OH:12]>>[H:20][CH:10](CC1(CC(C=CC1=O)(C)C)C)[C:11](=[OH+:12])C.[OH2:21] 10,11=10,20;20,21=21;12=11
[H:20][O:21]S(=O)(=O)O.CCNC(C=C)([O-:10])OC(=O)C>>[H:20][O:10]C(C=C)(NCC)OC(=O)C.OS(=O)(=O)[O-:21] 10=20;20,21=21
C[Si:20](C)(C)OCC1=C(C=CC=C1)[Sn](C)(C)C.[F-:10]>>C[Si-:20](C)(C)(OCC1=C(C=CC=C1)[Sn](C)(C)C)[F:10] 10=20,
CCCC[Sn:20](CCCC)(CCCC)C[CH+]CC(C(=CC1=CSC(=N1)C)C)O[Ti](OC(C)C)(OC(C)C)OC(C)C.CC(C)[O-:10]>>CCCC[Sn-:20](CCCC)(CCCC)(C[CH+]CC(C(=CC1=CSC(=N1)C)C)O[Ti](OC(C)C)(OC(C)C)OC(C)C)[O:10]C(C)C 10=20,
[H:20][CH:21](CC(=O)C)[C:22](=[NH+:23]C1=CC=C(C=C1)F)C2=CC=C(C=C2)S(=O)(=O)C.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH2+:10].CC(=O)C[CH:21]=[C:22](C1=CC=C(C=C1)S(=O)(=O)C)[NH:23]C2=CC=C(C=C2)F.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
C[SH:10].[OH:21][Cl:20]>>C[SH+:10][Cl:20].[OH-:21] 10=20;20,21=21
C[N+:21](=[CH2:20])C.[I-:10]>>C[N:21](C)[CH2:20][I:10] 10=20;20,21=21
[H:20][C:21](C)(C)[C+:22](C)C.CC[OH:10]>>C[C:21](=[C:22](C)C)C.[H:20][OH+:10]CC 10=20;20,21=21,22
CC(C)OC(=O)C([CH2:20][O:21][P+:22](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)NC(=O)OC(C)(C)C.C=CC1=C(N2C(C(C2=O)NC(=O)CC3=CC=CC=C3)SC1)C(=O)[O-:10].CCOC(=O)NNC(=O)OCC.CCOC(=O)NN=C(O)OCC>>CC(C)OC(=O)C([CH2:20][O:10]C(=O)C1=C(CSC2N1C(=O)C2NC(=O)CC3=CC=CC=C3)C=C)NC(=O)OC(C)(C)C.C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.CCOC(=O)NNC(=O)OCC.CCOC(=O)NN=C(O)OCC 10=20;20,21=21,22
[H:20][CH:21]1C=C([NH+:23]=[C:22]1C2=CC(=CC(=C2)C(=O)CCC(=O)C)C(=O)CCC(=O)C)C.CC(=O)[O-:10].C(=O)[O-].O>>[H:20][O:10]C(=O)C.CC1=C[CH:21]=[C:22]([NH:23]1)C2=CC(=CC(=C2)C(=O)CCC(=O)C)C(=O)CCC(=O)C.C(=O)[O-].O 10=20;22,23=23;20,21=21,22
CCCC[C:11]1=[CH:10]C2=C([NH:12]1)C=CC=C2.[Br:20][Br:21]>>CCCC[C:11]1=[NH+:12]C2=C([CH:10]1[Br:20])C=CC=C2.[Br-:21] 10,11=10,20;20,21=21;12=11
CC=C[CH2:20][Cl:21].[OH-:10]>>CC=C[CH2:20][OH:10].[Cl-:21] 10=20;20,21=21
CC(C)C1=C(C(=CC=C1)C(C)C)N2C=C[N+](=C2[C-:12]([CH:11]=[CH:10]C3=CC=CC=C3)O)C4=C(C=CC=C4C(C)C)C(C)C.C1=CC=C(C=C1)[C:20](=[O:21])C(F)(F)F.CC(C)(C)O>>CC(C)C1=C(C(=CC=C1)C(C)C)N2C=C[N+](=C2[C:12](=[CH:11][CH:10](C3=CC=CC=C3)[C:20](C4=CC=CC=C4)(C(F)(F)F)[O-:21])O)C5=C(C=CC=C5C(C)C)C(C)C.CC(C)(C)O 10,11=10,20;20,21=21;12=11
[H:20][OH+:21]C1(CCCC1CC(=O)C(C)P(=O)(OCC)OCC)OCCO.[OH2:10].CCO.[Cl-]>>[H:20][OH2+:10].CCOP(=O)(C(C)C(=O)CC1CCCC1([OH:21])OCCO)OCC.CCO.[Cl-] 10=20;20,21=21
C[C+:20](C)CCN(C)C[CH:10]=[C:11]=C[Si](C)(C)C>>C[C:20]1(CCN(C[CH:10]1[C+:11]=C[Si](C)(C)C)C)C 10,11=10,20
CCOC(=O)[CH:21]=[C:20]=C.CC[P:10](CC)CC>>CCOC(=O)[CH-:21][C:20](=C)[P+:10](CC)(CC)CC 10=20;20,21=21
C[CH:20](C1=CC=CC=C1)[O:21][P+:22](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4.C1=CC2=C(C=C1)SC(=N2)[S-:10].C1=CC2=C(C=C1)SC(=N2)S>>C[CH:20](C1=CC=CC=C1)[S:10]C2=NC3=C(S2)C=CC=C3.C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC2=C(C=C1)SC(=N2)S 10=20;20,21=21,22
CN[C:20](=[NH+:21]C)[OH:10]>>CN[C:20](=[OH+:10])[NH:21]C 10=20;20,21=21
CCCC[OH+:11][Al-:10](CC(C)C)(CC(C)C)OCCCC.CCCCO>>CCCC[OH:11].CCCCO[Al:10](CC(C)C)CC(C)C.CCCCO 10,11=11
[H:20][O:21]CC1=CC=C(O1)C=O.C1CC(=O)[N-:10]C1=O.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br>>[H:20][N:10]1C(=O)CCC1=O.C1=C(OC(=C1)C=O)C[O-:21].C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br 10=20;20,21=21
C[O-:10].CO[C:20](=[O:21])OC>>CO[C:20]([O-:21])(OC)[O:10]C 10=20;20,21=21
C[C:11](C)(C)[Si-:10](C)(C)(C)[O+]=C>>C[C-:11](C)C.C[Si:10](C)(C)[O+]=C 10,11=11
C[SH:10].C[S:20][Br:21]>>C[SH+:10][S:20]C.[Br-:21] 10=20;20,21=21
[H:20][O+:21]1CCOC12CCC(CC2)C(=O)OC.OS(=O)(=O)[O-:10]>>COC(=O)C1CCC2(CC1)OCC[O:21]2.[H:20][O:10]S(=O)(=O)O 10=20;20,21=21
[Li-2:11]1([N+](CC[N+]1(C)C)(C)C)[CH:10](CC=C)C[CH:20]=[CH2:21]>>[Li-:11]1[N+](CC[N+]1(C)C)(C)C.[CH2-:21][CH:20]1C[CH:10]1CC=C 10,11=10,20;20,21=21
CC(=O)CC[C:20](=[O:21])C.C(COCCO)[NH2:10].CC(=O)O.C1=CC=CC=C1>>CC(=O)CC[C:20](C)([NH2+:10]CCOCCO)[O-:21].CC(=O)O.C1=CC=CC=C1 10=20;20,21=21
[H:20][NH+:21](C1(CCCC(=C1)C)O)N2CCCC2COC.COCC1CCCN1[NH2:10]>>[H:20][NH2+:10]N1CCCC1COC.CC1=CC(CCC1)([NH:21]N2CCCC2COC)O 10=20;20,21=21
COC(=O)C1=C(C=CC=C1)[CH:20]=[O:21].C1=CC=[C:10](C=C1)[Mg:11]Br.C1CCOC1>>COC(=O)C1=C(C=CC=C1)[CH:20]([C:10]2=CC=CC=C2)[O-:21].[Mg+:11]Br.C1CCOC1 10,11=10,20;20,21=21
[H:20][OH2+:21].CCC([N:10](C)C)O>>[H:20][N+:10](C)(C)C(CC)O.[OH2:21] 10=20;20,21=21
